US08278282B2
A dry three-necked flask under N2 is charged with CeCl3 (23.6 g, 95.48 mmol, 4.4 equiv.) and THF (100 ml), which is cooled to −50° C. 1M Ethynylmagnesium bromide (186.8 ml, 93.4 mmol, 4.3 equiv.) is added over 20 min. The suspension is stirred at −50° C. for 1.5 hour. A solution of (2R,4R,5R)-2,4-dibenzoyloxy-5-benzoyloxymethyl-dihydrofuran-3-one (10.0 g, 21.7 mmol, 1.0 equiv.) in THF (80 ml) is added over 10 minutes. After addition, the suspension is stirred at −50° C. for 4 hour. The reaction is quenched with saturated NH4Cl (200 ml). After being allowed to warm to ambient temperature, the reaction mixture is filtered and extracted with CH2Cl2 (200 ml×3). The organic phase is dried over anhydrous Na2SO4, and concentrated to give a foam (2R, 3R,4R,5R)-2,4-dibenzoyloxy-5-benzoyloxymethyl-3-ethynyl-tetrahydrofuran-3-ol. 1H-NMR (400 MHz, CDCl3): δ 8.05-8.01 (m, 6H), 7.65-7.37 (m, 9H), 6.59 (s, 1H), 5.53 (d, 1H, J=2.8 Hz), 4.80-4.77 (m, 1H), 4.70 (dd, 1H, J=5.2 Hz, 12 Hz), 4.65 (dd, 1H, J=6 Hz, 12 Hz), 3.02 (bs, 1H), 2.65 (s, 1H).

reactant | Ethynylmagnesium bromide | 93.4 mmol, 1M, 186.8 ml, 4.3 equiv. | C(#C)[Mg]Br
reactant | (2R,4R,5R)-2,4-dibenzoyloxy-5-benzoyloxymethyl-dihydrofuran-3-one | 21.7 mmol, 10.0 g, 1.0 equiv. | C(C1=CC=CC=C1)(=O)O[C@H]1O[C@@H]([C@H](C1=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C26H20O8
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (2R, 3R,4R,5R)-2,4-dibenzoyloxy-5-benzoyloxymethyl-3-ethynyl-tetrahydrofuran-3-ol | C(C1=CC=CC=C1)(=O)O[C@H]1O[C@@H]([C@H]([C@]1(O)C#C)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C28H22O8
